US05128351
Ethyl 3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]benzoate
A solution of 10.13 g of ethyl 3-amino-benzoate and 6.82 g of triethylamine in 100 ml of methylene chloride is added dropwise to a solution of p-tetradecyloxyphenylacetyl chloride in 100 ml of methylene chloride over 15 minutes. The mixture is stirred for an additional 2.5 hours then washed with dilute hydrochloric acid. The organic layer is evaporated and the residue dissolved in 1.5 liter of ether then washed with dilute sodium hydroxide. The organic layer is dried and evaporated to a residue which is crystallized from carbon tetrachloride:hexane to give 24.4 g of the desired product as a white solid, m.p. 91°-94° C.

reactant | ethyl 3-amino-benzoate | 10.13 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | triethylamine | 6.82 g | C(C)N(CC)CC | C6H15N
reactant | p-tetradecyloxyphenylacetyl chloride | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)Cl | C22H35ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]benzoate | 24.4 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)NC=1C=C(C(=O)OCC)C=CC1 | C31H45NO4
